US07834008B2
Diazo-(3,4-Difluoro-phenyl)acetic acid allyl ester (70 g) was dissolved in dichloromethane (1000 mL) and added slowly during 36 h via a syringe pump (alternatively it is added dropwise via an addition funnel; 30 mL pr. hour) to a refluxing solution of rhodium (II) octanoate dimer (1.17 g, 1.5 mmol) in dichloromethane (200 mL). After all diazo compound has been added, the mixture is refluxed for another 30 min, then was evaporated in vacuo and crystallised by addition of cyclohexane (200 mL). This gave 30 g crystalline. Further 15 g was isolated from the motherliq. by repeated evaporation and crystallisation giving in total 45 g 1-(3,4-Difluoro-phenyl)-3-oxa-bicyclo[3.1.0]hexan-2-one.

reactant | Diazo-(3,4-Difluoro-phenyl)acetic acid allyl ester | 70 g | C(C=C)OC(C(C1=CC(=C(C=C1)F)F)=[N+]=[N-])=O | C11H8F2N2O2
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | rhodium (II) octanoate dimer | 1.5 mmol, 1.17 g | CCCCCCCC(=O)O.CCCCCCCC(=O)O.CCCCCCCC(=O)O.CCCCCCCC(=O)O.[Rh].[Rh]
product | 1-(3,4-Difluoro-phenyl)-3-oxa-bicyclo[3.1.0]hexan-2-one | 45 g | FC=1C=C(C=CC1F)C12C(OCC2C1)=O | C11H8F2O2
